US06262096B1
A. Preparation of N-[(5-thiocyanato)-2-thiazolyl]trifluoroacetamide (XVIII)
To a mixture of 5-thiocyanato-2-aminothiazole (30 mmol) and 2,6-lutidine (35 mmol) in tetrahydrofuran (25 mL) and dichloromethane (50 mL) at -78° C. under argon was slowly added trifluoroaceticanhydride (33 mmol). After addition, the mixture was allowed to warm up to rt and stirred overnight. The mixture was diluted with dichloromethane (100 20 mL), and the organic solution was washed with 5% aqueous citric acid followed by brine, dried over magnesium sulfate and passed through a pad of silica gel. The product containing eluent was concentrated to afford 5.3 g of light brown solid.

reactant | 5-thiocyanato-2-aminothiazole | 30 mmol | S(C#N)C1=CN=C(S1)N | C4H3N3S2
reactant | 2,6-lutidine | 35 mmol | N1=C(C=CC=C1C)C | C7H9N
reactant | trifluoroaceticanhydride | 33 mmol | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | N-[(5-thiocyanato)-2-thiazolyl]trifluoroacetamide | 5.3 g | S(C#N)C1=CN=C(S1)NC(C(F)(F)F)=O | C6H2F3N3OS2
